US06020342
1-Amino-8-chloro-7-methoxyisoquinoline
To a solution of 1.3 g of 8-chloro-7-methoxyisoquinoline-N-oxide in 40 ml of pyridine was added 1.4 g of p-toluenesulfonyl chloride, and the mixture was stirred at ambient temperature for 2 hours. The solvent was removed under reduced pressure, 20 ml of ethanolamine was added to the resultant residue, and then the mixture was stirred for further 3 hours. The reaction mixture was poured into water, and the crystalline precipitate was collected by filtration, washed with water, and dried under reduced pressure to give 0.8 g of the title compound as a yellow powder.

reactant | 8-chloro-7-methoxyisoquinoline-N-oxide | 1.3 g | ClC=1C(=CC=C2C=C[N+](=CC12)[O-])OC | C10H8ClNO2
reactant | p-toluenesulfonyl chloride | 1.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 1-Amino-8-chloro-7-methoxyisoquinoline | 0.8 g | NC1=NC=CC2=CC=C(C(=C12)Cl)OC | C10H9ClN2O
